US04933355
2-Ethylaminothiazol-4-ylmethanol
The reaction described in Preparation 17 was repeated but using 10 g of ethyl 2-ethylaminothiazole-4-carboxylate, 3.8 g of sodium borohydride, 70 ml of methanol and 150 ml of tetrahydrofuran, giving the title compound as a yellow oil.

reactant | ethyl 2-ethylaminothiazole-4-carboxylate | 10 g | C(C)NC=1SC=C(N1)C(=O)OCC | C8H12N2O2S
reactant | sodium borohydride | 3.8 g | [BH4-].[Na+]
reactant | methanol | 70 ml | CO | CH4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-Ethylaminothiazol-4-ylmethanol | C(C)NC=1SC=C(N1)CO | C6H10N2OS
